US05542952
1st Step: Preparation of 2-Ethylthio-4-Acetylaminonitrobenzene
To a suspension of 25.2 g (0.3 mol) of sodium thioethoxide in 220 ml of dimethoxyethane at room temperature are added, portionwise over 30 minutes with stirring, 46.2 g (0.216 mol) of 2-chloro-4-acetylaminonitrobenzene.

reactant | sodium thioethoxide | 0.3 mol, 25.2 g | [S-]CC.[Na+]
reactant | 2-chloro-4-acetylaminonitrobenzene | 0.216 mol, 46.2 g | ClC1=C(C=CC(=C1)NC(C)=O)[N+](=O)[O-] | C8H7ClN2O3
solvent | dimethoxyethane | 220 ml | C(OC)COC | C4H10O2
product | 2-Ethylthio-4-Acetylaminonitrobenzene | C(C)SC1=C(C=CC(=C1)NC(C)=O)[N+](=O)[O-] | C10H12N2O3S
